US06777406B2
(±)-cis-N-(2-chloro-5-methylphenyl)-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-2-amine
Using 3-bromo-4-chlorotoluene and following the procedures described in EXAMPLE 17, Parts B and C, (±)-cis tert-butyl 2-amino-4,5,7a,8,10,10a-hexahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline-9(7H)-carboxylate was converted into (±)-cis-N-(2-chloro-5-methylphenyl)-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-2-amine, bis-trifluoroacetic acid salt, after HPLC purification (C18 reverse phase column, elution with a H2O/CH3CN gradient with 0.5% TFA). This material was free-based with aq ammonium hydroxide, extracted with chloroform, washed with brine, dried (K2CO3) and concentrated to the title compound of EXAMPLE 117 as the free base. 1H NMR (CDCl3) δ: 7.18 (d, 1H, J=8.0 Hz), 6.91 (s, 1H), 6.71 (app s, 2H), 6.52 (dd, 1H, J=8.0, 1.4 Hz), 5.83 (s, 1H), 3.79 (dd, 1H, J=11.4, 8.1 Hz), 3.63 (dd, 1H, J=11.5, 7.1 Hz), 3.54 (q, 1H, J=7.5 Hz), 3.37-3.22 (m, 3H), 3.15 (dd, 1H, J=11.3, 8.4 Hz), 3.08-2.92 (m, 4H), 2.85 (dd, 1H, J=10.4, 7.5 Hz). LRMS (ES)+: 340.3 (M+H)+.

reactant | 3-bromo-4-chlorotoluene | BrC=1C=C(C=CC1Cl)C | C7H6BrCl
reactant | (±)-cis tert-butyl 2-amino-4,5,7a,8,10,10a-hexahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinoline-9(7H)-carboxylate | NC=1C=C2[C@@H]3[C@H](CN4C2=C(C1)CC4)CN(C3)C(=O)OC(C)(C)C | C18H25N3O2
product | (±)-cis-N-(2-chloro-5-methylphenyl)-4,5,7,7a,8,9,10,10a-octahydrodipyrrolo[3,4-c:3′,2′,1′-ij]quinolin-2-amine | ClC1=C(C=C(C=C1)C)NC=1C=C2[C@@H]3[C@H](CN4C2=C(C1)CC4)CNC3 | C20H22ClN3
